US04476132
2 g of 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid ethyl ester are heated under reflux for 4 hours together with 20 ml of methanol, 1.2 g of potassium hydroxide and 0.5 ml of water. The reaction mixture is concentrated to dryness by evaporation and taken up in water. The solution is acidified to pH 1 with 2N hydrochloric acid and filtered with suction. The product obtained by filtering with suction is thoroughly washed with water, resuspended in water, thoroughly triturated and stirred at room temperature for 5 hours, then filtered with suction, washed with water, and recrystallised twice from methanol. In this manner 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid having a melting point of 255°-258° is obtained.

reactant | 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid ethyl ester | 2 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C(C1)=O)C(CCC)=O)C | C17H19NO4
reactant | methanol | 20 ml | CO | CH4O
reactant | potassium hydroxide | 1.2 g | [OH-].[K+]
solvent | water | 0.5 ml | O | H2O
product | 6-butyryl-7-methyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | C(CCC)(=O)C=1C=C2C(C=C(NC2=CC1C)C(=O)O)=O | C15H15NO4
